US04594442
Under an argon atmosphere, 1 g of [(8-acetyl-7-hydroxy-2-naphthalenyl)oxy]acetic acid methyl ester was added to a suspension of 0.16 g of 60% sodium hydride in 15 ml of anhydrous dimethylformamide. The mixture was stirred at room temperature for 40 minutes and then 4.75 g of bis(3-bromopropyl)ether was added. The mixture was stirred at room temperature for 20 hours. The mixture was concentrated in vacuo to an oil which was dissolved in ethyl acetate, washed with water and concentrated to give an oil which was purified by column chromatography using 7.5% ethyl acetate-toluene to yield 1 g (60%) of [[8-acetyl-7-[3-(3-bromopropoxy)propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester as an oil.

reactant | [(8-acetyl-7-hydroxy-2-naphthalenyl)oxy]acetic acid methyl ester | 1 g | COC(COC1=CC2=C(C(=CC=C2C=C1)O)C(C)=O)=O | C15H14O5
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | bis(3-bromopropyl)ether | 4.75 g | BrCCCOCCCBr | C6H12Br2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | [[8-acetyl-7-[3-(3-bromopropoxy)propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 1 g, 60% | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCCOCCCBr)C(C)=O)=O | C21H25BrO6
